US05708033
Trifluoroacetic acid (27.4 ml) was added to a stirred, chilled (ice-methanol bath) solution of 2-(4-chloro-6-fluoro-1-hydroxy-1-indanyl)acetic acid (12.5 g, 0.05 mol) in dichloromethane (200 ml). After 1.5 h, the mixture was concentrated in vacuo. Dichloromethane was added to the residue and the mixture was concentrated in vacuo to give 10.6 g of crude (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetic acid. Chromatography of a 1.0 g sample on silica gel with ethyl acetate:hexanes (1:1) as eluent gave 0.32 g of (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetic acid as a white solid: mp 229°-230° C.

reactant | Trifluoroacetic acid | 27.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-chloro-6-fluoro-1-hydroxy-1-indanyl)acetic acid | 0.05 mol, 12.5 g | ClC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)O | C11H10ClFO3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetic acid | 10.6 g | ClC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)O | C11H8ClFO2
